US07208513B2
B. [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-[2-(dimethylamino)ethyl]carboxamide
To a stirred solution of methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenyl methyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.400 g, 0.619 mmol) in a tetrahydrofuran/water mixture (2.50 mL/1.00 mL) was added lithium hydroxide monohydrate (0.0780 g, 1.86 mmol) and the mixture heated at 60° C. for 21 h. To this mixture was added tetrahydrofuran (2.00 mL), N,N-dimethylaminoethyl amine (0.204 mL, 1.86 mmol), 1-hydroxybenzotriazole hydrate (0.251 g, 1.86 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.356 g, 1.86 mmol). This mixture was stirred for 18 h at ambient temperature. To this solution was added 6.0 M hydrochloric acid in dioxane (25.0 mL) and the mixture stirred at ambient temperature for 24 h. The mixture was cooled and poured into saturated aqueous sodium bicarbonate (50 mL). The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated. Addition of ethyl acetate (5 mL) initiated crystal growth and the ethyl acetate phase was pipetted off. The crystals were filtered. Purification by preparative HPLC (30–80% acetonitrile/water) followed by washing with saturated sodium bicarbonate and extraction with ethyl acetate gave the title compound (0.0719 g, 31% yield). 1H NMR (CD3OD) δ 8.82 (m, 1H), 8.51 (t, 1H), 8.36 (s, 1H), 8.22 (dt, 1H), 8.14 (dd, 1H), 7.93 (dt, 1H), 7.72 (dd, 1H), 7.67 (t, 1H), 3.59 (t, 2H), 2.65 (t, 2H), 2.35 (s, 6H). ES-MS (m/z) 376 [M+1]+

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenyl methyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.619 mmol, 0.400 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | lithium hydroxide monohydrate | 1.86 mmol, 0.0780 g | O.[OH-].[Li+]
reactant | N,N-dimethylaminoethyl amine | 1.86 mmol, 0.204 mL | CNN(NC)CC | C4H13N3
reactant | 1-hydroxybenzotriazole hydrate | 1.86 mmol, 0.251 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.86 mmol, 0.356 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 6.0 M | Cl | ClH
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 25.0 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | 2.50 mL | O1CCCC1.O
product | [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-[2-(dimethylamino)ethyl]carboxamide | 0.0719 g, 31% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCCN(C)C | C20H21N7O
